US04472579
To a mixture of glacial acetic acid (170 ml) and concentrated hydrochloric acid (170 ml) was added 4.3 g of 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester and the reaction mixture was concentrated under reduced pressure. The residue was dissolved in 10 ml of water and adjusted to pH 7.5 with diluted sodium hydroxide solution. The precipitated crystals were carried out by the same way in the Example 1 to give 3.3 g (84% yield) of 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid. mp: 220.5°-222° C.

reactant | hydrochloric acid | 170 ml | Cl | ClH
reactant | 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 4.3 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)N1CCNCC1)CC | C18H22FN3O3
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.3 g, 84% yield | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
